US07723368B2
Step 2) 1-Bromo-3-((4-(difluoromethoxy)phenyl)ethynyl)benzene
To a solution of 3-bromophenylacetylene (9.1 g, 50.26 mmol), TEA (22.4 g, 221 mmol, 30.8 mL), bis(triphenylphosphine)dichloropalladium(II) (1.41 g, 2.01 mmol), and CuI (230 mg, 1.2 mmol) in DMF (60 mL) was added 4-iodo(difluoromethoxy)benzene (10.85 g, 40.21 mmol) at room temperature. The reaction mixture had gotten warm after the addition was completed. The mixture was stirred for 4 h then the mixture was portioned between EtOAc and water. The aqueous layer was separated and extracted twice with EtOAc. The combined organic layers were dried over Na2SO4, filtered, and concentrated over 40 g Celite. Flash chromatography (SiO2, Hexanes) gave 12 g, 92%, of the title compound as a yellow oil that had crystallized into a solid after being undisturbed for 3d. 1H NMR 500 MHz (DMSO-d6) δ 7.34 (dt, 2H, J=8.92 Hz, 4.70 Hz); 7.42 (t, 1H, 72.99 Hz); 7.54 (t, 1H, J=7.88 Hz); 7.85-7.88 (m, 1H); 7.94-7.97 (m, 1H); 8.00 (dt, 1H, J=8.93 Hz, 4.87 Hz); 8.04 (t, 1H, J=1.80 Hz).

reactant | 3-bromophenylacetylene | 50.26 mmol, 9.1 g | BrC=1C=C(C=CC1)C#C | C8H5Br
reactant | 4-iodo(difluoromethoxy)benzene | 40.21 mmol, 10.85 g | IC1=CC=C(C=C1)OC(F)F | C7H5F2IO
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | water | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)dichloropalladium(II) | 2.01 mmol, 1.41 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 1.2 mmol, 230 mg | [Cu]I
product | 1-Bromo-3-((4-(difluoromethoxy)phenyl)ethynyl)benzene | BrC1=CC(=CC=C1)C#CC1=CC=C(C=C1)OC(F)F | C15H9BrF2O
